US07390903B2
To a stirred solution of 50 mg (0.19 mmol) (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-thiophen-2-yl-methanone (the preparation of which is described in example 6) in 1.5 ml acetic acid was added 0.020 ml (0.21 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9:1) afforded 46 mg (74%) 1-(2-methyl-4-thiophen-2-yl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a yellow oil. ES-MS m/e (%): 328 (M+H+, 100).

reactant | (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-thiophen-2-yl-methanone | 0.19 mmol, 50 mg | NC1=C(C2=C(S1)CCCC2)C(=O)C=2SC=CC2 | C13H13NOS2
reactant | pentane-2,4-dione | 0.21 mmol, 0.020 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-(2-methyl-4-thiophen-2-yl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 46 mg, 74% | CC1=C(C(=C2C(=N1)SC1=C2CCCC1)C=1SC=CC1)C(C)=O | C18H17NOS2
